US04874792
(e) t-Butyl 3-hydroxy-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoate
To a suspension of zinc dust (0.25 g, 3 mmoles) and copper (I) bromide (0.02 g, 0.129 mmoles) in distilled tetrahydrofuran (20 ml) was added a solution of diethylaluminum chloride (2.8 ml, 2.8 mmoles) in hexane while stirring under argon at 25° C. The resulting mixture was cooled to -20° C, and a solution of 2-[7-(3-trifluoromethylphenylthio)heptyl]benzaldehyde (1.08 g, 2.8 mmoles) and t-butyl bromoacetate (0.42 ml, 2.8 mmoles) in tetrahydrofuran (6 ml) was added slowly at -20° C. The reaction mixture was permitted to warm to room temperature. After 2 hours the zinc was filtered off and washed with ether. The solvents were evaporated and the residue flash chromatographed on silica gel, eluted with 10% ethyl acetate in hexane, to provide the desired product.

reactant | diethylaluminum chloride | 2.8 mmoles, 2.8 ml | [Cl-].C(C)[Al+]CC
reactant | 2-[7-(3-trifluoromethylphenylthio)heptyl]benzaldehyde | 2.8 mmoles, 1.08 g | FC(C=1C=C(C=CC1)SCCCCCCCC1=C(C=O)C=CC=C1)(F)F | C21H23F3OS
reactant | t-butyl bromoacetate | 2.8 mmoles, 0.42 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
catalyst | zinc | 3 mmoles, 0.25 g | [Zn] | Zn
catalyst | copper (I) bromide | 0.129 mmoles, 0.02 g | [Cu]Br
product | t-Butyl 3-hydroxy-3-[2-(7-(3-trifluoromethylphenylthio)heptyl)phenyl]propanoate | OC(CC(=O)OC(C)(C)C)C1=C(C=CC=C1)CCCCCCCSC1=CC(=CC=C1)C(F)(F)F | C27H35F3O3S
